US07109354B2
b) [4-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyloxy]-acetic acid tert-butyl ester
The procedure used in Example 3: step b was followed using (3-iodo-4-methyl-benzyloxy)-acetic acid tert-butyl ester ((Example 300: step a) 600 mg, 1.65 mmol), PdCl2(PPh3)2 (58 mg, 0.08 mmol), triethylamine (1.25 mL, 9.4 mmol), and 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane (0.91 mL, 6.4 mmol) in dioxane (5 mL). Analogous aqueous workup and purification by SiO2 flash column chromatography yielded the title compound contaminated with the product resulting from halide reduction (569 mg, 95%). The material was used without further purification. 1H-NMR (CDCl3): δ 7.73 (d, 1H, J=1.9 Hz), 7.38 (dd, 1H, J=2.1, 7.9 Hz), 7.18 (d, 1H, J=7.9 Hz), 4.61 (s, 2H), 3.97 (s, 2H), 2.55 (s, 3H), 1.50 (s, 9H), 1.37 (s, 9H).

reactant | (3-iodo-4-methyl-benzyloxy)-acetic acid tert-butyl ester | C(C)(C)(C)OC(COCC1=CC(=C(C=C1)C)I)=O | C14H19IO3
reactant | triethylamine | 9.4 mmol, 1.25 mL | C(C)N(CC)CC | C6H15N
reactant | 4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | 6.4 mmol, 0.91 mL | CC1(OBOC1(C)C)C | C6H13BO2
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.08 mmol, 58 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | [4-Methyl-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzyloxy]-acetic acid tert-butyl ester | C(C)(C)(C)OC(COCC1=CC(=C(C=C1)C)B1OC(C(O1)(C)C)(C)C)=O | C20H31BO5
